US09193741B2
Synthesis of N-(3-chloro-4-fluorophenyl)-2-(4-fluorophenyl)-oxazolo[5,4-d]pyrimidin-7-amine
To a solution of 7-chloro-2-(4-fluorophenyl)-oxazolo[5,4-d]pyrimidine (85 mg, 0.34 mmol) in 1,2-dichloroethane/t-BuOH (1:1, 2 ml) was added 3-chloro-4-fluoroaniline (50 mg, 0.34 mmol). The mixture was heated at 90° C. for 1 day. After cooling down to room temperature, the solvent was removed under reduced pressure. The crude residue was purified by silica gel chromatography (CH2Cl2/MeOH 50:1) to yield the title compound as a white solid (0.1 g, 82%).

reactant | 7-chloro-2-(4-fluorophenyl)-oxazolo[5,4-d]pyrimidine | 0.34 mmol, 85 mg | ClC=1C2=C(N=CN1)OC(=N2)C2=CC=C(C=C2)F | C11H5ClFN3O
reactant | 3-chloro-4-fluoroaniline | 0.34 mmol, 50 mg | ClC=1C=C(N)C=CC1F | C6H5ClFN
solvent | 1,2-dichloroethane t-BuOH | 2 ml | ClCCCl.CC(C)(C)O
product | N-(3-chloro-4-fluorophenyl)-2-(4-fluorophenyl)-oxazolo[5,4-d]pyrimidin-7-amine | 0.1 g, 82% | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)OC(=N2)C2=CC=C(C=C2)F | C17H9ClF2N4O
